US05866592
Sodium hydroxide (378 mg, 9.45 mmol) and tetrahydrofuran (10 ml) were added to 4-(3-furyl)-3,3-dimethyl-2-azetidinone (1.2 g, 7.21 mmol) and the mixture was refluxed for 8 hours. After the solvent was distilled off, the residue was washed with ethyl acetate to give a powder of β-(3-furyl)-α,α-dimethyl-β-alanine sodium salt (1.4 g, quant.).

reactant | Sodium hydroxide | 9.45 mmol, 378 mg | [OH-].[Na+]
reactant | 4-(3-furyl)-3,3-dimethyl-2-azetidinone | 7.21 mmol, 1.2 g | O1C=C(C=C1)C1C(C(N1)=O)(C)C | C9H11NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | β-(3-furyl)-α,α-dimethyl-β-alanine sodium salt | 1.4 g | [Na+].O1C=C(C=C1)C(N)C(C(=O)[O-])(C)C | InChI=1S/C9H13NO3.Na/c1-9(2,8(11)12)7(10)6-3-4-13-5-6;/h3-5,7H,10H2,1-2H3,(H,11,12);/q;+1/p-1
